US07601722B2
1-(3-bromopropyl)-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.61 g, 1.56 mmol) was dissolved in 5 mL of DMF along with 430 mg (3.1 mmol) of potassium carbonate and 0.32 g (1.56 mol) of tert-butyl piperidin-4-ylcarbamate. The solution was heated to 70° C. for 16 hours then poured in water. The solution was extracted 2× with ethyl acetate and the water layer discarded. The combined organic phase was washed 3 times with brine, then dried (MgSO4) and concentrated. The residue was subjected to Biotage chromatography (10-50% ethyl acetate-hexane) to afford 0.45 g (55%) of tert-butyl (1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-yl)carbamate. MS (ES) m/z 505.1; HPLC purity 97.9% at 210-370 nm, 10.5 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Bicarb Buff.Ph=9.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 1-(3-bromopropyl)-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 1.56 mmol, 0.61 g | BrCCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C15H14BrFN2O2S
reactant | potassium carbonate | 3.1 mmol, 430 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl piperidin-4-ylcarbamate | 1.56 mol, 0.32 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl (1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-yl)carbamate | 0.45 g, 55% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCCN2CCC(CC2)NC(OC(C)(C)C)=O)(=O)=O | C25H33FN4O4S
